US20010018525A1
6-(Amino-ethoxy)-5-bromo-3′-trifluoromethyl-biphenyl-3-carboxylic acid dodecylamide
To a solution of N-dodecyl-3-bromo-4-(2-bromo-ethoxy)-5-(m-trifluoromethylphenyl)-benzamide (1.431 g, 2.25 mmol, 1 eq) in benzene (2 mL) was added tetrabutyl ammonium bromide (0.053 g, 0.16 mmol, 0.07 eq) and sodium azide (0.216 g, 3.32 mmol, 1.48 eq). The reaction was heated at reflux overnight. Additional tetrabutyl amumnonium bromide (0.064 g, 0.20 mmol, 0.09 eq) and sodium azide (0.224 g, 3.45 mmol, 1.53 eq) were required as indicated by TLC. The reaction was cooled to rt and the solids were filtered off. The filtrate was washed with H2O and dried over MgSO4. Triethyl phosphite (0.390 mL, 2.27 mmol, 1.0 eq) was then added to the filtrate and the reaction was stirred overnight at rt. Additional triethyl phosphite (0.780 mL, 4.54 mmol, 2.0 eq) was required. After 48 h, HCl gas was bubbled through the reaction mixture and stirred was continued for 72 h. The reaction was then concentrated in vacuo, dissolved in THF and washed with 2 M HCl. The washes were then adjusted pH 10 with 2.5 M NaOH and were extracted with CH2Cl2. All organics were combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (7 to 12% MeOH:CH2Cl2) to afford the title compound (0.0738 g, 57%) as a colorless oil. 1H NMR (DMSO-d6) δ8.57 (bt, 1H); 8.12 (d, 1H); 7.90 (m, 3H); 7.80 (d, 1H); 7.73 (dd, 1H); 3.51 (dd, 2H1); 3.30 (bs, 2H); 3.23 (dd, 2H); 2.58 (dd, 2H); 1.450 (dd, 2H); 1.25 (m, 18H); 0.83 (t, 3H); IR (film) 3300, 3080, 2920, 2850, 1640, 1600, 1550, 1450, 1330, 1160, 1120, 1080 cm−1; mass spectrum [(+)ESI], m/z 571/573 (M+H)+; Anal. Calcd. for C28H38BrF3N2O2: C, 58.84; H, 6.70; N, 4.90, Found: C, 56.61; H, 6.61; N, 4.71.

reactant | N-dodecyl-3-bromo-4-(2-bromo-ethoxy)-5-(m-trifluoromethylphenyl)-benzamide | 2.25 mmol, 1.431 g, 1 eq | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCBr)Br)=O | C28H36Br2F3NO2
reactant | sodium azide | 3.32 mmol, 0.216 g, 1.48 eq | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 3.45 mmol, 0.224 g, 1.53 eq | [N-]=[N+]=[N-].[Na+]
reactant | Triethyl phosphite | 2.27 mmol, 0.390 mL, 1.0 eq | P(OCC)(OCC)OCC | C6H15O3P
reactant | triethyl phosphite | 4.54 mmol, 0.780 mL, 2.0 eq | P(OCC)(OCC)OCC | C6H15O3P
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrabutyl ammonium bromide | 0.16 mmol, 0.053 g, 0.07 eq | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-(Amino-ethoxy)-5-bromo-3′-trifluoromethyl-biphenyl-3-carboxylic acid dodecylamide | 0.0738 g, 57% | C(CCCCCCCCCCC)NC(=O)C=1C=C(C(=C(C1)Br)OCCN)C1=CC(=CC=C1)C(F)(F)F | C28H38BrF3N2O2
